US06930104B2
tert-Butyl N-[1-[1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl]-1,2,3,4-tetrahydro-6-quinolinyl]carbamate
Starting with cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol (712 mg, 2.18 mmol) prepared in Reference Example 1 and tert-butyl N-(1,2,3,4-tetrahydro-6-quinolinyl)carbamate (1.35 g, 5.44 mmol), the same procedure as shown in Example 1 was repeated to give the titled compound (157 mg, yield: 13%) as a white crystal. (cis:trans=4.8:1)

reactant | cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol | 2.18 mmol, 712 mg | COC=1C=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)O)C)C=CC1OC | C19H21NO4
reactant | tert-butyl N-(1,2,3,4-tetrahydro-6-quinolinyl)carbamate | 5.44 mmol, 1.35 g | N1CCCC2=CC(=CC=C12)NC(OC(C)(C)C)=O | C14H20N2O2
product | tert-Butyl N-[1-[1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl]-1,2,3,4-tetrahydro-6-quinolinyl]carbamate | 157 mg, yield: 13% | COC=1C=C(C(=O)N2C(CC(C3=CC=CC=C23)N2CCCC3=CC(=CC=C23)NC(OC(C)(C)C)=O)C)C=CC1OC | C33H39N3O5
